US09079866B2
4-({2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]phenyl}sulonyl)piperazin-2-one
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and 4-((2-bromophenyl)sulfonyl)piperazin-2-one. MS (ESI): mass calcd. for C19H18N6O3S, 410.12; m/z found, 411.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.97 (s, 2H), 8.60 (dd, J=2.2, 0.9, 1H), 8.18 (dd, J=8.0, 1.3, 1H), 7.91 (dd, J=8.2, 2.2, 1H), 7.87 (dd, J=8.2, 1.0, 1H), 7.80 (m, 1H), 7.70 (m, 1H), 7.50 (dd, J=7.5, 1.3, 1H), 3.42 (s, 2H), 3.15 (s, 4H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | 4-((2-bromophenyl)sulfonyl)piperazin-2-one | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C10H11BrN2O3S
product | 4-({2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]phenyl}sulonyl)piperazin-2-one | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C19H18N6O3S
